US08349880B2
Step T (3): Dichloromethane (100 mL) was added to a flask charged with 4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluoroaniline (1.67 g, 8.10 mmol and 1,1′-thiocarbonyldipyridin-2(1H)-one (1.88 g, 8.10 mmol). The resulting mixture was stirred for 24 h at rt and concentrated in vacuo. A solution of ammonia (2.0 M in methanol, 50 mL, 100 mmol) was added to the crude solid. The heterogeneous mixture was stirred at rt for 2 h, then evaporated to dryness under reduced pressure using a rotory evaporator. The solid residue was triturated with anhydrous ethanol and chilled to 0° C. for 1 h. The solid was collected by vacuum filtration and dried under high vacuum to afford 1-(4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenyl)thiourea (1.10 g, 4.06 mmol, 50% yield) as a white powdery solid. LC-MS (M+H)+ 266.3. 1H NMR (500 MHz, DMSO-d6) δ ppm 10.06 (s, 1 H), 7.91 (d, J=12.5 Hz, 1 H), 7.50 (t, J=8.5 Hz, 1 H), 7.35 (d, J=8.9 Hz, 1 H), 2.26 (s, 6 H).

reactant | 4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluoroaniline | CC1=NN(C(=N1)C)C1=C(C=C(N)C=C1)F | C10H11FN4
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 8.10 mmol, 1.88 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | ammonia | 100 mmol, 2.0 M, 50 mL | N | H3N
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenyl)thiourea | 4.06 mmol, 1.10 g, 50% yield | CC1=NN(C(=N1)C)C1=C(C=C(C=C1)NC(=S)N)F | C11H12FN5S
